US07696216B2
D. Synthesis of (2-amino-5-propargyloxy-phenyl)-(4-isopropyl-phenyl)-methanone
To a solution of 10.59 g (30.7 mmol) (4-isopropyl-phenyl)-(2-nitro-5-propargyloxy-phenyl)-methanone in 250 ml acetic acid are added 13.6 g (246 mmol) iron powder. After stirring for 20 h at rt the reaction mixture is basified by the addition of 2M sodium hydroxide solution, filtered and extracted with dichloromethane. After purification by chromatography using hexanes/ethyl acetate (7:3) as eluent (2-amino-5-propargyloxy-phenyl)-(4-isopropyl-phenyl)-methanone is obtained.

reactant | (4-isopropyl-phenyl)-(2-nitro-5-propargyloxy-phenyl)-methanone | 30.7 mmol, 10.59 g | C(C)(C)C1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OCC#C)[N+](=O)[O-] | C19H17NO4
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 246 mmol, 13.6 g | [Fe] | Fe
product | (2-amino-5-propargyloxy-phenyl)-(4-isopropyl-phenyl)-methanone | NC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC=C(C=C1)C(C)C | C19H19NO2
